* AD603A SPICE Macro-model              Rev. A, 12/94
*                                       ARG / PMI
*
* This version of the AD603 model simulates the worst-case
* parameters of the 'A' grade.  The worst-case parameters
* used correspond to those in the data sheet.
*
* Copyright 1993 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of
* this model indicates your acceptance of the terms and pro-
* visions in the License Statement.
*
* Node assignments
*                vinp
*                |   common
*                |   |   vpos
*                |   |   |   vneg
*                |   |   |   |   vout
*                |   |   |   |   |   gpos
*                |   |   |   |   |   |   gneg
*                |   |   |   |   |   |   |   fdbk
*                |   |   |   |   |   |   |   |
.SUBCKT AD603A   3   2   99  50  48  40  41  49
*
* INPUT STAGE
*
Q1A  1    3    21   QN
Q1B  4    5    21   QN
Q2A  1    14   22   QN
Q2B  4    5    22   QN
Q3A  1    15   23   QN
Q3B  4    5    23   QN
Q4A  1    16   24   QN
Q4B  4    5    24   QN
Q5A  1    17   25   QN
Q5B  4    5    25   QN
Q6A  1    18   26   QN
Q6B  4    5    26   QN
Q7A  1    19   27   QN
Q7B  4    5    27   QN
Q8A  1    20   28   QN
Q8B  4    5    28   QN
RT   3    2    500
CIN  3    2    2E-12
RL1  3    14   62.5
RL2  14   2    125
RL3  14   15   62.5
RL4  15   2    125
RL5  15   16   62.5
RL6  16   2    125
RL7  16   17   62.5
RL8  17   2    125
RL9  17   18   62.5
RL10 18   2    125
RL11 18   19   62.5
RL12 19   2    125
RL13 19   20   62.5
RL14 20   2    62.5
VOS  11   5    0.45E-3
IB1  99   7    400E-6
IB2  99   29   200E-6
IB3  99   30   200E-6
IB4  99   31   200E-6
IB5  99   32   200E-6
IB6  99   33   200E-6
IB7  99   34   200E-6
IB8  99   13   400E-6
Q100 50   51   7    QP
Q101 50   52   13   QP
R100 51   50   950
R101 52   50   950
G10  50   51   POLY(1) (40,41) 2E-3 3.5E-3
G11  50   52   POLY(1) (41,40) 2E-3 3.5E-3
RB1  7    29   700
RB2  29   30   700
RB3  30   31   700
RB4  31   32   700
RB5  32   33   700
RB6  33   34   700
RB7  34   13   700
Q9   21   7    6    QN
Q10  22   29   6    QN
Q11  23   30   6    QN
Q12  24   31   6    QN
Q13  25   32   6    QN
Q14  26   33   6    QN
Q15  27   34   6    QN
Q16  28   13   6    QN
Q17  61   62   1    QN
Q18  64   62   4    QN
R102 61   62   12E3
R103 64   62   12E3
RC   40   41   50E6
CCTL 40   41   3.183E-15
IGP  40   0    205E-9
IGN  41   0    195E-9
I1   6    50   2.5E-3
R1   99   61   2E3
R2   99   64   2E3
*
* 1ST GAIN STAGE
*
EREF 98   0    POLY(2) (99,0) (50,0) 0 0.5 0.5
G1   98   8    64 61 0.84
R5   8    98   1
E1   99   9    POLY(1) (99,98) -0.535 1
E2   10   50   POLY(1) (98,50) -0.535 1
D1   8    9    DX
D2   10   8    DX
*
* 2ND GAIN STAGE AND DOMINANT POLE AT 317KHZ
*
G2   98   58   8 98 1.667E-3
R6   58   98   55.2273E3
C1   58   98   9.091E-12
V1   99   59   3.2
V2   60   50   3.2
D3   58   59   DX
D4   60   58   DX
*
* POLE AT 250MHZ
*
G5   98   35   58 98 1
R11  35   98   1
C2   35   98   0.637E-9
*
* POLE AT 300MHZ
*
G6   98   36   35 98 1
R12  36   98   1
C4   36   98   0.531E-9
*
* POLE AT 300MHZ
*
G7   98   37   36 98 1
R13  37   98   1
C5   37   98   0.531E-9
*
* POLE AT 300MHZ
*
G3   98   45   37 98 1E-3
R10  45   98   1E3
C3   45   98   0.531E-12
*
* OUTPUT STAGE
*
GSY  99   50   POLY(1) (99,50) -16E-3 1.6E-3
FSY  99   50   POLY(2) V7 V8 12.51E-3 1 1
RO1  99   48   4
RO2  48   50   4
GO1  48   99   99 45 250E-3
GO2  50   48   45 50 250E-3
V4   48   46   -0.7
V5   47   48   -0.7
D5   46   45   DX
D6   45   47   DX
G4   98   44   48 45 250E-3
D7   44   42   DX
D8   43   44   DX
V7   42   98   0
V8   98   43   0
RF1  48   49   6.44E3
RF2  11   49   694
RIN  11   2    20
.MODEL DX D(IS=1E-16)
.MODEL QN NPN(BF=200 IS=1E-14 RB=20 KF=1E-16 AF=1)
.MODEL QP PNP(BF=1000 IS=1E-14)
.ENDS
